US09029536B2
C) Ethyl {2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzimidazol-1-yl}acetate
A mixture of ethyl[2-(4-bromophenoxy)-1H-benzimidazol-1-yl]acetate (1.3 g), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.3 g), Pd(dppf)2Cl2 (38 mg) and KOAc (1.02 g) in THF (20 mL)-DMSO (1.0 ml) was stirred at 80° C. under N2 atmosphere overnight. The mixture was diluted with AcOEt and filtered on silica gel conditioned with AcOEt. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (1.06 g).

reactant | ethyl[2-(4-bromophenoxy)-1H-benzimidazol-1-yl]acetate | 1.3 g | C(C)OC(CN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)Br)=O | C17H15BrN2O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.3 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 1.02 g | CC(=O)[O-].[K+]
reactant | DMSO | 1.0 ml | CS(=O)C | C2H6OS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)2Cl2 | 38 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl {2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]-1H-benzimidazol-1-yl}acetate | 1.06 g | CC1(OB(OC1(C)C)C1=CC=C(OC2=NC3=C(N2CC(=O)OCC)C=CC=C3)C=C1)C | C23H27BN2O5
